US09062076B2
To a stirred solution of (Z)-methyl 2-(2-(6,7-dimethoxy-1-oxo-2,3-dihydroisoquinolin-4(1H)-ylidene)acetamido)benzoate (140 mg, 0.35 mmol) in MeOH (4 mL) and THF (8 mL) was added 2N LiOH (0.7 mL) dropwise at room temperature. The resulting mixture was stirred at room temperature overnight then the reaction was quenched by addition of 1N HCl and the solvent was removed under reduced pressure. The mixture was diluted with water, cooled and the precipitate collected by filtration to afford (Z)-2-(2-(6,7-dimethoxy-1-oxo-2,3-dihydroisoquinolin-4(1H)-ylidene)acetamido)benzoic acid (125 mg, 93%). 1H-NMR (400 MHz, DMSO-d6) δ 3.80, (s, 3H), 3.84 (s, 2H), 3.85 (s, 3H), 7.00 (s, 1H), 7.10 (m, 1H), 7.22 (d, J=6.0 Hz, 1H), 7.56 (m, 1H), 7.61 (s, 1H), 7.90 (dd, J=8.0, 1.6 Hz, 1H), 8.57 (dd, J=8.4, 0.8 Hz, 1H), 11.38 (d, J=5.6 Hz, 1H), 13.54 (br s, 1H); LC-MS (ES-API); rt 8.27 min; m/z calculated for C20H18N2O6[M+H]+ 383.1, found 383.1.

reactant | (Z)-methyl 2-(2-(6,7-dimethoxy-1-oxo-2,3-dihydroisoquinolin-4(1H)-ylidene)acetamido)benzoate | 0.35 mmol, 140 mg | COC=1C=C2/C(/CNC(C2=CC1OC)=O)=C/C(=O)NC1=C(C(=O)OC)C=CC=C1 | C21H20N2O6
reactant | LiOH | 2N, 0.7 mL | [Li+].[OH-]
solvent | MeOH | 4 mL | CO | CH4O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (Z)-2-(2-(6,7-dimethoxy-1-oxo-2,3-dihydroisoquinolin-4(1H)-ylidene)acetamido)benzoic acid | 125 mg, 93% | COC=1C=C2/C(/CNC(C2=CC1OC)=O)=C/C(=O)NC1=C(C(=O)O)C=CC=C1 | C20H18N2O6
